US04116956
To a solution of 1.43 parts of 7-chloro-5phenyl-3-H-1,4-benzodiazepine-2-thione in 12.5 parts by volume of 0.4 N sodium methoxide in methanol is added dropwise with stirring 0.6 part by volume of benzyl bromide and the stirring is continued for an additional 30 minutes. Water is added to the reaction mixture and the resulting oil is extracted with ethyl acetate. The ethyl acetate layer is washed with water and dried over sodium sulfate. Evaporation of the solvent yields 2-benzylmercapto-7-chloro-5-phenyl-3H-1,4-benzodiazepine as an oil.

reactant | 7-chloro-5phenyl-3-H-1,4-benzodiazepine-2-thione | ClC=1C=CC2=C(C(=NCC(N2)=S)C2=CC=CC=C2)C1 | C15H11ClN2S
reactant | sodium methoxide | 0.4 N | C[O-].[Na+]
reactant | benzyl bromide | C(C1=CC=CC=C1)Br | C7H7Br
reactant | Water | O | H2O
solvent | methanol | CO | CH4O
product | 2-benzylmercapto-7-chloro-5-phenyl-3H-1,4-benzodiazepine | C(C1=CC=CC=C1)SC1=NC2=C(C(=NC1)C1=CC=CC=C1)C=C(C=C2)Cl | C22H17ClN2S
